US04640703
4.4 g (0.017 mole) of 2-(hydroxyphenoxy)propionic acid N-cyano-N-butylamide, 3.8 g (0.02 mole) of 2,6-dichlorobenzoxazole and 3.5 g (0.025 mole) of potassium carbonate are stirred in 50 ml of acetonitrile for 10 hours at room temperature. The salts are then removed by filtration and the filtrate is concentrated by evaporation. The residue is chromatographed through silica gel eluted with ethyl acetate/hexane (1:3), affording 2-[4-(6-chlorobenzoxazol-2-yloxy)phenoxy]propionic acid N-cyano-N-butylamide with a melting point of 91°-92° C.

reactant | 2-(hydroxyphenoxy)propionic acid N-cyano-N-butylamide | 0.017 mole, 4.4 g | C(#N)N(C(C(C)OC1=C(C=CC=C1)O)=O)CCCC | C14H18N2O3
reactant | 2,6-dichlorobenzoxazole | 0.02 mole, 3.8 g | ClC=1OC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NO
reactant | potassium carbonate | 0.025 mole, 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-[4-(6-chlorobenzoxazol-2-yloxy)phenoxy]propionic acid N-cyano-N-butylamide | C(#N)N(C(C(C)OC1=CC=C(C=C1)OC=1OC2=C(N1)C=CC(=C2)Cl)=O)CCCC | C21H20ClN3O4
